US06194410B1
In an analogous manner to that described in Example 4, from 3-(4-bromo-benzenesulphonyl)-7-chloro-5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine and NH3 in MeOH there was obtained 3-(4-bromo-benzenesulphonyl)-5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ylamine as colorless crystals, m.p.>230°.

reactant | 3-(4-bromo-benzenesulphonyl)-7-chloro-5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine | BrC1=CC=C(C=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2Cl)C)SC | C14H11BrClN3O2S2
reactant | NH3 | N | H3N
solvent | MeOH | CO | CH4O
product | 3-(4-bromo-benzenesulphonyl)-5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ylamine | BrC1=CC=C(C=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N)C)SC | C14H13BrN4O2S2
